US07622583B2
4-Chloro-N-[5-chloro-2-(2-oxazol-2-yl-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide
To a solution of N-(2-Bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (125 mg, 0.25 mmol) in 2.0 mL of THF under nitrogen atmosphere at 0° C. was added drop-wise 0.3 ml (0.6 mmol) of isopropylmagnesium chloride. The mixture was then stirred for 20 min at 0° C. followed by addition of N-Methoxy-N-methyl-2-oxazol-2-yl-benzamide (100 mg, 0.43 mmol). The mixture was stirred at room temperature overnight, quenched with saturated ammonium chloride and extracted with ethyl acetate. After concentration the residue was purified by flash chromatograph (30% ethyl acetate in hexane) to afford 30 mg of title compound as an off white solid. MS: (M+H)/z=586.1.

reactant | N-(2-Bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.25 mmol, 125 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesium chloride | 0.6 mmol, 0.3 ml | C(C)(C)[Mg]Cl
reactant | N-Methoxy-N-methyl-2-oxazol-2-yl-benzamide | 0.43 mmol, 100 mg | CON(C(C1=C(C=CC=C1)C=1OC=CN1)=O)C | C12H12N2O3
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 4-Chloro-N-[5-chloro-2-(2-oxazol-2-yl-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 30 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)C=1OC=CN1)=O)C(F)(F)F | C24H16Cl2F3N3O5S
